US05086062
A.3 5-Fluorobenzoxazolin-2-one
To a solution of 2-amino-4-fluorophenol (40.5 g, 0.32 mole) in 400 ml tetrahydrofuran, at 0° C., was added dropwise trichloromethyl chloroformate (44.8 ml, 0.32 mole). The reaction mixture was allowed to warm up to room temperature Stirring was continued for 2 hours. Then, the reaction mixture was poured onto ice and the organic substance was extracted with ethyl acetate (500 ml×3). The combined extracts were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated to yield 44.3 g of the title compound as brown solids.

reactant | 2-amino-4-fluorophenol | 0.32 mole, 40.5 g | NC1=C(C=CC(=C1)F)O | C6H6FNO
reactant | trichloromethyl chloroformate | 0.32 mole, 44.8 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 5-Fluorobenzoxazolin-2-one | 44.3 g | FC=1C=CC2=C(NC(O2)=O)C1 | C7H4FNO2
